US09447046B2
Preparation 163a: 4-cyclopropyl-N-(2-methoxyethyl)aniline
To a solution of this N-(4-cyclopropylphenyl)-2-methoxyacetamide in THF (20 mL) was added LAH (5.0 mL, 2.4 M in THF, 12 mmol) at 0° C. The reaction was stirred at r.t. for 2 h. The solution was diluted with water (0.5 mL) and EtOAc (30 mL), dried (Na2SO4), and concentrated. Purification by silica gel chromatography (0% to 15% MeOH/DCM) gave 912 mg (79%) of the title compound as a yellow oil. [M+H] Calc'd for C12H17NO, 192. Found, 192.

reactant | N-(4-cyclopropylphenyl)-2-methoxyacetamide | C1(CC1)C1=CC=C(C=C1)NC(COC)=O | C12H15NO2
reactant | LAH | 12 mmol, 2.4 M, 5.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-cyclopropyl-N-(2-methoxyethyl)aniline | 912 mg, 79% | C1(CC1)C1=CC=C(NCCOC)C=C1 | C12H17NO
